Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Admit for observation post procedure 
 
Major Surgical or Invasive Procedure:
Drain placement

 
History of Present Illness:
___ y/o M w/ h/o hepatitis C s/p OLT in ___, now with recurrent 
hepatitis C and chronic rejection, with h/o splenectomy and 
distal pancreatectomy c/b fistula now, w/ peripancreatic abscess 
infected with ESBL Klebsiella who is now admitted s/p drain 
reinsertion. Patient's ___ abscess has been drained 
multiple times in the past, and has been treated with multiple 
courses of IV antibiotics. Most recently he was admitted for 
hepatic encephalopathy, and pneumonia requiring intubation. 
During that course, his intra-abdominal abscess grew an ESBL 
klebsiella that was treated with meropenem. Plan on discharge 
was for the patient to continue on meropenem until seen by ID as 
an outpatient and transition to PO antibiotics could be made. 
Prior to discharge patients drain fell out. Unfortunately, it 
could not be replaced as there was no clear fluid collection 
evidenced on the CT scan at that time.  
.  
On discharge patient was afebrile and doing well. He was 
discharged to ___ where he apparently complained only 
of loose stools. The patient attributes these stools to his tube 
feeds, and denies abdominal pain, constipation, fevers, chills, 
cough, shortness of breath or other complaints. A routine CT 
scan done for interval assessment of his abscess demonstrated 
that the fluid had reaccumulated (measured 4.7 by 3.3cm). He is 
now readmitted for observation after reinsertion of his biliary 
drain. The procedure was apparently uncomplicated. He has no 
complaints at the time of arrival to the floor.  

 
Past Medical History:
Past Medical History:  
-ITP  
-SVT last episode approximately ___, medically managed at this 
time  
-Hepatitis C  
-ESLD s/p liver Tx ___, s/p revision ___ complicated with 
rejection and steroid use since ___ to present; also 
complicated with Hepatitis C recurrence and restarted peg 
interferon ___. Hep C possibly contracted from ___.  
-Thoracic compression fractures: ___  
-Cognitive disorders: h/o post hypoxic encephalopathy ___.  
-Depression /anxiety  
-Neutropenia and infections including c. diff x3, streptococcal 
septicemia, anal fistula  
-History of fistula in anus s/p Fistulectomy ___  
-Chronic pain especially rectal pain  
-Diabetes : steroid induced, managed at ___, recent  
HBA1C 5.1 % (had received blood transfusions with splenectomy  
), insulin requirements decreased  
-S/p Appy  
-S/p tonsillectomy  
-Bilateral inguinal hernia  
-S/p hernia repair which has failed  
-S/p umbilical hernia repair and right inguinal hernia repair  
___  
-S/p ccy  
-Left sided hydronephrosis due to obstruction from splenomegaly, 
s/p left ureteral stent placement ___.  
-Secondary hyperparathyroidism due to CKD managed by Dr. ___ 
at ___.  
-Splenectomy, distal pancreatectomy, c/w fistula, s/p spent and  

then removal ___  

 
Social History:
___
Family History:
Mother has DM2 and HTN. Uncle with cancer in his ___ (unknown  
site). Denies any family history of MI, sudden cardiac death,  
stroke and lung diseases has DM2  

 
Physical Exam:
VS: T 98, BP 107/66, HR 64, RR20, 97% RA
Gen: Chronically ill appearing man in NAD, dobhoff tube in place 
 
Skin: thin, no rashes  
HEENT: mmm, o/p clear  
Neck: Supple  
Lungs: CTABL  
Heart: RRR no m/r/g  
Abd: drain in place with sanguinous fluid draining in tube/bag, 
no drainage around catheter, mild tenderness at insertion site, 
otherwise benign abdominal exam  
Ext: wwp, no cyanosis or edema  
Neuro: AOx3, ambulating independently with normal gait, no 
asterixis  

 
Pertinent Results:
___ 02:13PM BLOOD WBC-7.9 RBC-3.05* Hgb-10.2* Hct-32.9* 
MCV-108* MCH-33.5* MCHC-31.1 RDW-16.9* Plt ___
___ 06:25AM BLOOD WBC-8.3 RBC-2.67* Hgb-9.4* Hct-28.9* 
MCV-108* MCH-35.2* MCHC-32.5 RDW-16.8* Plt ___
___ 02:13PM BLOOD ___
___ 02:13PM BLOOD Glucose-136* UreaN-20 Creat-0.5 Na-138 
K-4.1 Cl-111* HCO3-22 AnGap-9
___ 02:13PM BLOOD Calcium-9.9 Phos-2.7 Mg-1.9
___ 10:00 am ABSCESS     Site: ABDOMEN
   GRAM STAIN (Final ___: 
      2+   ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 
   WOUND CULTURE (Preliminary): 
   ANAEROBIC CULTURE (Preliminary): 
___ C diff toxin neg
.

CXR portable A/P ___:
FINDINGS: In comparison with study of ___, there has been 
placement of the Dobbhoff tube that extends to the region of the 
ligament of Treitz. Blunting of the costophrenic angles is seen, 
but there is no evidence of cardiomegaly, vascular congestion, 
pleural effusion, or acute pneumonia. Left subclavian catheter 
remains in place. 

 
Brief Hospital Course:
___ year old male with hx of HCV cirrhosis s/p orthotopic liver 
transplant now with chronic rejection and recurrent HCV admitted 
for pigtail catheter drainage of peripancreatic abscess.  
.  
# Abscess: Drain placed by ___ on ___.  The procedure was 
uncomplicated and the drain has been putting out minimal amounts 
of serosanguinous fluid.  He should continue on meropenem for 
suppression of abscess that grew out ESBL klebsiella. 
Cultures were sent from abscess fluid, which are currently 
pending.  The patient's hematocrit and vital signs remained 
stable post-procedure.  Drain should be flushed with 5cc NS 
daily to prevent clotting.  Drain bag should be changed as 
needed.  Inspect drain site daily for skin breakdown. Patient to 
f/u in transplant clinic as outpatient for further evaluation.

.  
# Diarrhea: The patient has chronic diarrhea and is at risk for 
C. Diff but afebrile and no leukocytosis. One C diff culture was 
sent and was negative.  The patient was started on octreotide 
for diarrhea, which did not have a significant effect overnight. 
 Octreotide should be continued; stop if he has no improvement 
in diarrhea in one week.  While on octreotide, he should be 
followed with finger sticks as this medication can cause 
hyperglycemia.  
.
# Cirrhosis/Liver Transplant: Continue tacro and other home 
medications as detailed in med list.
.  
# Nutrition: continue tube feeds as below:
Tubefeeding: Start After 12:01AM; Fibersource HN Full strength; 
Starting rate: 10 ml/hr; Advance rate by 10 ml q4h Goal rate: 30 
ml/hr
Cycle?: Yes, when at goal Cycle start: 1400 Cycle end: 1000
Flush w/ 30 ml water q4h
Encourage bananas by mouth.  One tablespoon of metamucil daily.  
Avoid other supplements through tube feeds.
.  
# Chronic Pain/Rectal and otherwise: Continue outpatient 
medications.  
.  
# Depression: continue on sertraline and trazodone.

 
Medications on Admission:
1. Amylase-Lipase-Protease 20,000-4,500- 25,000 unit Capsule,  
Delayed Release(E.C.) Sig: One (1) Cap PO TID W/MEALS  
2. Latanoprost 0.005 % Drops Sig: One (1) Drop Ophthalmic HS (at 
 
bedtime).  
3. Ursodiol 300 mg Capsule Sig: One (1) Capsule PO BID  
4. Sertraline 50 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily): 
 
5. Rifaximin 200 mg Tablet Sig: Three (3) Tablet PO BID  
6. Gabapentin 100 mg Capsule Sig: One (1) Capsule PO BID  
7. Lamivudine 100 mg Tablet Sig: One (1) Tablet PO DAILY  
8. Lactulose 10 gram/15 mL Syrup Sig: Fifteen (15) ML PO TID  
9. Tacrolimus 0.5 mg Capsule Sig: One (1) Capsule PO QOD  
10. Dapsone 100 mg Tablet Sig: One (1) Tablet PO DAILY (Daily):  

11. Trazodone 50 mg Tablet Sig: 0.5 Tablet PO HS (at bedtime)  
12. Atenolol 50 mg Tablet Sig: One (1) Tablet PO once a day  
13. Omeprazole 40 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
 
Capsule, Delayed Release(E.C.) PO twice a day:  
14. Risedronate 35 mg Tablet Sig: One (1) Tablet PO once a week. 
 
15. Meropenem 500 mg Recon Soln Sig: One (1) Recon Soln  
Intravenous Q6H (every 6 hours)  
16. Peridex 0.12 % Mouthwash Sig: One (1) 15ml Mucous membrane  
twice a day as needed for dental plaque.  
17. AndroGel 1 %(50 mg/5 gram) Gel in Packet Sig: One (1)  
Transdermal once a day.  
18. Psyllium Packet Sig: One (1) Packet PO DAILY (Daily).  
20. Lidocaine-Prilocaine 2.5-2.5 % Cream Sig: One (1) Appl  
Topical BID (2 times a day) as needed for pain: anal fissure.  
21. Simethicone 80 mg Tablet, Chewable Sig: One (1) Tablet,  
Chewable PO QID (4 times a day) as needed for heartburn.  

 
Discharge Medications:
1. Atenolol 50 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
2. Chlorhexidine Gluconate 0.12 % Mouthwash Sig: Fifteen (15) ml 
Mucous membrane at bedtime as needed for dental plaque.  
3. Amylase-Lipase-Protease 20,000-4,500- 25,000 unit Capsule, 
Delayed Release(E.C.) Sig: One (1) Cap PO TID W/MEALS (3 TIMES A 
DAY WITH MEALS).  
4. Dapsone 100 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
5. Gabapentin 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
6. Lactulose 10 gram/15 mL Syrup Sig: Thirty (30) ML PO TID (3 
times a day).  
7. Lamivudine 100 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
8. Latanoprost 0.005 % Drops Sig: One (1) Drop Ophthalmic HS (at 
bedtime).  
9. Lidocaine-Prilocaine 2.5-2.5 % Cream Sig: One (1) Appl 
Topical BID PRN () as needed for pain at anal fissure.  
10. Ursodiol 300 mg Capsule Sig: One (1) Capsule PO BID (2 times 
a day).  
11. Sertraline 50 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
12. Rifaximin 200 mg Tablet Sig: Three (3) Tablet PO Q 12H 
(Every 12 Hours).  
13. Tacrolimus 0.5 mg Capsule Sig: One (1) Capsule PO twice a 
day.  
14. Trazodone 50 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime) as needed for insomnia.  
15. Psyllium     Packet Sig: One (1) Packet PO DAILY (Daily).  
16. Testosterone 5 mg/24 hr Patch 24 hr Sig: One (1) Patch 24 hr 
Transdermal DAILY (Daily).  
17. Ondansetron 4 mg Tablet, Rapid Dissolve Sig: One (1) Tablet, 
Rapid Dissolve PO Q8H (every 8 hours) as needed for nausea.  
18. Meropenem 500 mg Recon Soln Sig: One (1) Recon Soln 
Intravenous Q6H (every 6 hours).  
19. Simethicone 80 mg Tablet, Chewable Sig: One (1) Tablet, 
Chewable PO QID (4 times a day) as needed for gas.  
20. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: Two (2) 
Capsule, Delayed Release(E.C.) PO BID (2 times a day).  
21. Octreotide Acetate 100 mcg/mL Solution Sig: One (1) ml 
Injection Q8H (every 8 hours) for 7 days: for diarrhea, can d/c 
if no improvement after 1 week.  
22. Risedronate 35 mg Tablet Sig: One (1) Tablet PO once a week: 
on ___.  
23. Acetaminophen 650 mg Tablet Sig: One (1) Tablet PO every ___ 
hours as needed for fever or pain: Not to exceed 2 grams per 
day.  
24. Zofran 4 mg Tablet Sig: ___ Tablets PO every eight (8) hours 
as needed for nausea.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Intra-Abdominal Abscess

 
Discharge Condition:
Stable

 
Discharge Instructions:
You were admitted to the hospital for placement of a drain into 
a fluid collection in your belly.  This drain was placed without 
difficulty, and there were no complications with the procedure.  
You were monitored overnight for evidence of further bleeding, 
fevers, or other issues.  Please continue to take all 
medications as directed.  
.
The following changes were made to your medications:
1.  Octreotide 100mg subcutaneously three times per day - for 
treatment of diarrhea
.
Please call or return to the ED should you have any fevers, 
abdominal pain, worsening diarrhea or other complaints 
concerning to you.
 
Followup Instructions:
___